US05489602
A mixture of 2-[2-[5-methyl-2-(2-chlorophenyl)-4-oxazolyl]ethoxy]-5-nitropyridine (1.69 g), iron dust (787 mg), acetic acid (25 ml) and water (8 ml) was stirred at 65°-70° C. for 3 hours. Insolubles were filtered off and the filtrate was evaporated under reduced pressure. To the residue was added water. The mixture was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate. The solvent was distilled off, and the residue was subjected to silica gel chromatography. From the fraction eluted with methanol-chloroform (1:25, v/v), 5-amino-2-[2-[5-methyl-2-(2-chlorophenyl)-4-oxazolyl]ethoxy]pyridine (1.50 g, 97%) was obtained.

reactant | 2-[2-[5-methyl-2-(2-chlorophenyl)-4-oxazolyl]ethoxy]-5-nitropyridine | 1.69 g | CC1=C(N=C(O1)C1=C(C=CC=C1)Cl)CCOC1=NC=C(C=C1)[N+](=O)[O-] | C17H14ClN3O4
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 787 mg | [Fe] | Fe
solvent | water | 8 ml | O | H2O
product | 5-amino-2-[2-[5-methyl-2-(2-chlorophenyl)-4-oxazolyl]ethoxy]pyridine | 1.50 g, 97% | NC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C17H16ClN3O2
